US05624936
Step E: N-[2(S)-amino-3(S)-methylpentyl]-1,2,3,4-tetrahydro-3(S)-isoquinolinecarbonyl-methionine methyl ester
HCl gas was bubbled into a solution of N-[2(S)-(t-butyloxycarbonylamino-3(S)-methylpentyl]-1,2,3,4-tetrahydro-3(S)-isoquinolinecarbonyl-methionine methyl ester (0.37 g, 0.71 mmol) in EtOAc (25 mL) with stirring at -20° C. over 0.5 h. The solution was purged with argon for 0.5 h, then concentrated to give the title compound as a white solid which was used without further purification.

reactant | HCl | Cl | ClH
reactant | 2(S)-(t-butyloxycarbonylamino-3(S)-methylpentyl]-1,2,3,4-tetrahydro-3(S)-isoquinolinecarbonyl-methionine methyl ester | 0.71 mmol, 0.37 g | COC([C@](N)([C@H](CSC)C(=O)C1NCCC2=CC=CC=C12)C(C[C@H](CC)C)NC(=O)OC(C)(C)C)=O | C27H43N3O5S
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | N-[2(S)-amino-3(S)-methylpentyl]-1,2,3,4-tetrahydro-3(S)-isoquinolinecarbonyl-methionine methyl ester | COC([C@@H](NC[C@H]([C@H](CC)C)N)[C@H](CSC)C(=O)C1NCCC2=CC=CC=C12)=O | C22H35N3O3S
